US06069143
a) 2-(1-tert-Butoxycarbonylpiperazinyl)-5-nitropyridine 40
A mixture of tert-butyl 1-piperazinecarboxylate (1.0 g, 5.3 mmol), 2-chloro-5-nitropyridine (0.85 g, 5.3 mmol) and triethylamine (1.58 mL, 11.0 mmol) in CH3 -CN (50 mL)were stirred at rm temperature for 18 hr. The yellow suspension was concentrated, the residue was taken up in CH2Cl2 (125 mL) and washed with 5% NaHCO3 (2×25 mL) and brine (2×25 mL), dried over MgSO4 and concentrated to dryness in vacuo to yield the yellow titled compound (1.65 g, 100%). MS (ES) m/e 309.2 [m+H]+ 1.

reactant | tert-butyl 1-piperazinecarboxylate | 5.3 mmol, 1.0 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | 2-chloro-5-nitropyridine | 5.3 mmol, 0.85 g | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | triethylamine | 11.0 mmol, 1.58 mL | C(C)N(CC)CC | C6H15N
product | 2-(1-tert-Butoxycarbonylpiperazinyl)-5-nitropyridine | 1.65 g, 100% | C(C)(C)(C)OC(=O)N1C(CNCC1)C1=NC=C(C=C1)[N+](=O)[O-] | C14H20N4O4
